US07829707B2
(c) 3-({[3-(2-Ethoxyethoxy)pyridin-2-yl]methyl}amino)-1H-pyrrole-2-carboxylic acid ethyl ester
The title compound (0.17 g, 73%) was prepared in accordance with general method A using 3-(2-ethoxyethoxy)pyridine-2-carbaldehyde (0.21 g, 1.08 mmol) and 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester (0.11 g, 0.717 mmol).

reactant | 3-(2-ethoxyethoxy)pyridine-2-carbaldehyde | 1.08 mmol, 0.21 g | C(C)OCCOC=1C(=NC=CC1)C=O | C10H13NO3
reactant | 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester | 0.717 mmol, 0.11 g | C(C)OC(=O)C=1NC=CC1N | C7H10N2O2
product | 3-({[3-(2-Ethoxyethoxy)pyridin-2-yl]methyl}amino)-1H-pyrrole-2-carboxylic acid ethyl ester | 0.17 g, 73% | C(C)OC(=O)C=1NC=CC1NCC1=NC=CC=C1OCCOCC | C17H23N3O4
